US05134147
1-(Benzocyclobuten-1-ylmethyl)-4-piperidinecarboxylic acid
0.028 mole of 1-(iodomethyl)benzocyclobutene (Process 1, stage G}, 0.028 mole of 4-piperidinecarboxylic acid and 0.028 mole of triethylamine are mixed in 95 ml of dimethylformamide. The mixture is brought to 60° C. for 6 hours. It is evaporated to dryness, the residue is taken up with ethyl acetate and water and settling is allowed to take place.

reactant | 1-(iodomethyl)benzocyclobutene | 0.028 mole | ICC1CC=2C1=CC=CC2 | C9H9I
reactant | 4-piperidinecarboxylic acid | 0.028 mole | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | triethylamine | 0.028 mole | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 95 ml | CN(C=O)C | C3H7NO
product | 1-(Benzocyclobuten-1-ylmethyl)-4-piperidinecarboxylic acid | C1(=CC2=C1C=CC=C2)CN2CCC(CC2)C(=O)O | C15H17NO2
